US09302989B2
N-[2-(3-methylbutyl)-2,3-dihydro-1H-isoindol-5-yl]-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 429, substituting 3-methylbutanal for isobutyraldehyde and N-(isoindolin-5-yl)isoindoline-2-carboxamide for N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)isoindoline-2-carboxamide. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.28 (s, 1H), 7.47 (s, 1H), 7.29-7.37 (m, 5H), 7.09 (d, J=8.1 Hz, 1H), 4.75 (s, 4H), 3.77-3.79 (m, 2H), 3.74-3.76 (m, 2H), 2.64 (t, J=7.5 Hz, 2H), 1.60-1.71 (m, 1H), 1.37-1.43 (m, 2H), 0.91 (d, J=6.6 Hz, 6H); MS (ESI(+)) m/e 350 (M+H)+.

reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
reactant | N-(isoindolin-5-yl)isoindoline-2-carboxamide | C1NCC2=CC(=CC=C12)NC(=O)N1CC2=CC=CC=C2C1 | C17H17N3O
reactant | N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)isoindoline-2-carboxamide | N1CCC(=CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C20H21N3O
product | N-[2-(3-methylbutyl)-2,3-dihydro-1H-isoindol-5-yl]-1,3-dihydro-2H-isoindole-2-carboxamide | CC(CCN1CC2=CC=C(C=C2C1)NC(=O)N1CC2=CC=CC=C2C1)C | C22H27N3O
